US05492905
Example 32. 3-Hydroxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
To a solution of 3-methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (0.47 g) in dichloromethane was added boron tribromide (6.5 mL). The precipitate which formed was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried and evaporated. The solid was recrystallized from hot toluene to give the title compound (0.31 g); mp 252.3° C.; NMR: 2.07 (s,3); MS(EI): m/z=203(M). Analysis for C11H9NO3 ·0.2 H2O: Calculated: C, 63.89; H, 4.58; N, 6.77; Found: C, 63.79; H, 4.49; N, 6.73.

reactant | 3-methoxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.47 g | COC1=C(C(C2=C(NC1=O)C=CC=C2)=O)C | C12H11NO3
reactant | boron tribromide | 6.5 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Hydroxy-4-methyl-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.31 g | OC1=C(C(C2=C(NC1=O)C=CC=C2)=O)C | C11H9NO3
